US05451678
A stirred solution of 4.39 g (15 mmol) of 2(S)-[2-phenyl-1(S)-phthalimidoethyl]oxirane and 3.57 g (15 mmol) of N-tert.butyl-decahydro-(4aS,8aS)-isoquinoline-3(S)-carboxamide in 30 ml of dimethylformamide was heated at 120° C. for 10 hours and then left to stand at room temperature for 18 hours. The mixture was evaporated to dryness under reduced pressure. The residue was dissolved in 50 ml of ethyl acetate, washed with 30 ml of water, dried over anhydrous sodium sulphate, filtered and evaporated. The crude product was crystallized from ethyl acetate/n-hexane and there were obtained 4.77 g of N-tert.butyl-decahydro-2-[2(R)-hydroxy-4-phenyl-3(S)-phthalimidobutyl ]-(4aS,8aS)-isoquinoline-3(S)-carboxamide in the form of a cream coloured solid; MS: m/e 532 [M+H]+.

reactant | 2(S)-[2-phenyl-1(S)-phthalimidoethyl]oxirane | 15 mmol, 4.39 g | C1(=CC=CC=C1)C[C@H](N1C(C=2C(C1=O)=CC=CC2)=O)[C@@H]2OC2 | C18H15NO3
reactant | N-tert.butyl-decahydro-(4aS,8aS)-isoquinoline-3(S)-carboxamide | 15 mmol, 3.57 g | C(C)(C)(C)NC(=O)[C@H]1NC[C@H]2CCCC[C@H]2C1 | C14H26N2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N-tert.butyl-decahydro-2-[2(R)-hydroxy-4-phenyl-3(S)-phthalimidobutyl ]-(4aS,8aS)-isoquinoline-3(S)-carboxamide | 4.77 g | C(C)(C)(C)NC(=O)[C@H]1N(C[C@H]2CCCC[C@H]2C1)C[C@H]([C@H](CC1=CC=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O)O | C32H41N3O4
